US04939140
A. 1-(2-Benzothiazolyl)ethyl chloride
To a solution of 1-(2-benzothiazolyl)ethanol (2.5 g) prepared according to J. Indian Chem. Soc., 566 (1974) in methylene chloride (50 ml) was added thionyl chloride (3.32 g) and the resulting solution stirred at room temperature for 1 hour. The solution was poured onto ice-water (100 ml) and the organic extract separated. This extract was washed with aqueous bicarbonate (10 ml of a 5% solution) and then with water (50 ml). The methylene chloride layer was dried over anhydrous magnesium sulfate and evaporated to a light yellow oil (2.08 g).

reactant | 1-(2-benzothiazolyl)ethanol | 2.5 g | S1C(=NC2=C1C=CC=C2)C(C)O | C9H9NOS
reactant | thionyl chloride | 3.32 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Benzothiazolyl)ethyl chloride | S1C(=NC2=C1C=CC=C2)C(C)Cl | C9H8ClNS
